US07834063B2
4-[(2-{[4-(Methylsulfonyl)phenyl]oxy}ethyl)(2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile
Synthesized as described in Example 1C from 4-[(2-hydroxyethyl)(2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile and 4-methanesulfonylphenol: 1H NMR (300 MHz, CDCl3) δ 7.67 (app. d, J=8.8 Hz, 2H), 7.67 (d, J=8.6 Hz, 1H), 7.19 (d, J=2.5 Hz, 1H), 7.05-6.95 (m, 3H), 4.29 (t, J=5.3 Hz, 2H), 4.20 (q, J=8.6 Hz, 2H), 4.05 (t, J=5.1 Hz, 2H), 3.01 (s, 3H).

reactant | 4-[(2-hydroxyethyl)(2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile | OCCN(C1=CC(=C(C#N)C=C1)C(F)(F)F)CC(F)(F)F | C12H10F6N2O
reactant | 4-methanesulfonylphenol | CS(=O)(=O)C1=CC=C(C=C1)O | C7H8O3S
product | 4-[(2-{[4-(Methylsulfonyl)phenyl]oxy}ethyl)(2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile | CS(=O)(=O)C1=CC=C(C=C1)OCCN(C1=CC(=C(C#N)C=C1)C(F)(F)F)CC(F)(F)F | C19H16F6N2O3S
